US05672616
a) Methyl 3-bromomethylthien-2-ylglyoxylate
A solution of 135.7 g (0.73 mol) of methyl 3-methylthien-2-ylglyoxylate, 131.2 g (0.73 mol) of N-bromosuccinimide and 1.35 g of azobisisobutyronitrile in 1000 ml of carbon tetrachloride is refluxed for 3 hours. Thereafter, the mixture is filtered and the filtrate is evaporated down. The residue is taken up in diethyl ether and the solution is washed with water, dried and evaporated down. 166.4 g of crude product are obtained, which is recrystallized from methanol. 100 g of the abovementioned compound are obtained as a yellow solid.

reactant | methyl 3-methylthien-2-ylglyoxylate | 0.73 mol, 135.7 g | CC1=C(SC=C1)C(C(=O)OC)=O | C8H8O3S
reactant | N-bromosuccinimide | 0.73 mol, 131.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 1000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 1.35 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | Methyl 3-bromomethylthien-2-ylglyoxylate | 100 g | BrCC1=C(SC=C1)C(C(=O)OC)=O | C8H7BrO3S
